US04235904
4-(4-tolyl)-5-[2-(4-phenyl-1-piperazinyl)ethyl]-1,3-dioxol-2-one hydrochloride m.p.=252°-4° C. (from ethanol)
4-(4-fluorophenyl)-5-[2-(4-(3,5-dichlorophenyl)-1-piperazinyl)ethyl]-1,3-dioxol-2-one hydrochloride m.p.=277°-9° C. (from ethanol

reactant | 4-(4-fluorophenyl)-5-[2-(4-(3,5-dichlorophenyl)-1-piperazinyl)ethyl]-1,3-dioxol-2-one hydrochloride | Cl.FC1=CC=C(C=C1)C=1OC(OC1CCN1CCN(CC1)C1=CC(=CC(=C1)Cl)Cl)=O
reactant | ethanol | C(C)O | C2H6O
product | 4-(4-tolyl)-5-[2-(4-phenyl-1-piperazinyl)ethyl]-1,3-dioxol-2-one hydrochloride | Cl.C1(=CC=C(C=C1)C=1OC(OC1CCN1CCN(CC1)C1=CC=CC=C1)=O)C | InChI=1S/C22H24N2O3.ClH/c1-17-7-9-18(10-8-17)21-20(26-22(25)27-21)11-12-23-13-15-24(16-14-23)19-5-3-2-4-6-19;/h2-10H,11-16H2,1H3;1H
